US09216991B2
Step 2: Formation of 2-(3-Iodo-phenyl)-5-(1H-pyrazol-4-yl)-pyrimidine
To a suspension of 3-[5-(1H-Pyrazol-4-yl)-pyrimidin-2-yl]-phenylamine (12.6 g; 53.2 mmol; 1.0 eq.) in Dioxane (500 mL) were added diiodomethane (21.6 mL; 266 mmol; 5.0 eq.), Copper(I) iodide (10.1 g; 53.2 mmol; 1.0 eq.) and isopentyl nitrite (21.5 mL; 159 mmol; 3.0 eq.). The reaction mixture was stirred at 100° C. for 2 hours and filtered. The filtrate was kept in a flask. The resulting green solid was suspended in dioxane (100 mL) and stirred at 100° C. for 30 minutes. The solid was then filtered off and the two filtrates were combined and concentrated under reduced pressure. The dark brown residue was sonicated in EtOAc (20 mL) and pentane (80 mL). The resulting brown solid was filtered, further washed with pentane and dried few hours under high vacuum to give the title compound as a brown solid (7.0 g; 38%). 1H NMR (300 MHz, DMSO-d6) δ 13.27 (brs, 1H), 9.20 (s, 2H), 8.71 (t, J=1.5 Hz, 1H), 8.52 (m, 1H), 8.39 (dt, J=8.0 Hz, 1.5 Hz, 1H), 8.21 (m, 1H), 7.89-7.86 (m, 1H), 7.35 (t, J=8.0 Hz, 1H). HPLC (Condition A): Rt 3.86 min (purity 67.6%). MS (ESI+): 349.3

reactant | 3-[5-(1H-Pyrazol-4-yl)-pyrimidin-2-yl]-phenylamine | 53.2 mmol, 12.6 g, 1.0 eq. | N1N=CC(=C1)C=1C=NC(=NC1)C=1C=C(C=CC1)N | C13H11N5
reactant | diiodomethane | 266 mmol, 21.6 mL, 5.0 eq. | ICI | CH2I2
reactant | isopentyl nitrite | 159 mmol, 21.5 mL, 3.0 eq. | N(=O)OCCC(C)C | C5H11NO2
solvent | Dioxane | 500 mL | O1CCOCC1 | C4H8O2
catalyst | Copper(I) iodide | 53.2 mmol, 10.1 g, 1.0 eq. | [Cu]I
product | 2-(3-Iodo-phenyl)-5-(1H-pyrazol-4-yl)-pyrimidine | 7.0 g, 38% | IC=1C=C(C=CC1)C1=NC=C(C=N1)C=1C=NNC1 | C13H9IN4
